US05116862
1-[2-(But-3-ynyloxy)ethyl]-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane was prepared from 3-(but-3-ynyloxy)propionic acid and 3-hydroxymethyl-3-n-propyloxetane using the methodology outlined in Example I.

reactant | 3-(but-3-ynyloxy)propionic acid | C(CC#C)OCCC(=O)O | C7H10O3
reactant | 3-hydroxymethyl-3-n-propyloxetane | OCC1(COC1)CCC | C7H14O2
product | 1-[2-(But-3-ynyloxy)ethyl]-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane | C(CC#C)OCCC12OCC(CO1)(CO2)CCC | C14H22O4
